US05846995
N,N-Dimethyl-8-carboxy-1,2,3,4-tetrahydro-2-dibenzofuranamine
A mixture of 0.21 gm (0.73 mMol) N,N-dimethyl-8-ethoxycarbonyl-1,2,3,4-tetrahydro-2-dibenzofuranamine and 25 mL 2N sodium hydroxide in 25 ml tetrahydrofuran was stirred at 35° C. for 18 hours. The reaction mixture was cooled to room temperature and washed with dichlorometh-ane. The aqueous phase was adjusted to pH~7, saturated with sodium chloride, and then extracted well with chloroform containing 10% isopropanol. Organic extracts were combined and concentrated under reduced pressure to provide a white solid which was taken up in hydrochloric acid. The colorless crystalline precipitate which formed was filtered and dried to provide 0.098 ggm (55%) of the title compound.

reactant | N,N-dimethyl-8-ethoxycarbonyl-1,2,3,4-tetrahydro-2-dibenzofuranamine | 0.73 mMol, 0.21 gm | CN(C1CC2=C(OC3=C2C=C(C=C3)C(=O)OCC)CC1)C | C17H21NO3
reactant | sodium hydroxide | 2N, 25 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | N,N-Dimethyl-8-carboxy-1,2,3,4-tetrahydro-2-dibenzofuranamine | 55% | CN(C1CC2=C(OC3=C2C=C(C=C3)C(=O)O)CC1)C | C15H17NO3
